US04310346
To a mixture of 225.6 g of 4-chloro-3-nitrobenzotrifluoride and 136 g of benzyl mercaptan in 1.5 l of ethyl alcohol, at reflux, was added a solution of 72.5 g of 85% KOH in 120 ml of water over a 45 minute period. Reflux was continued for an additional three hours. The reaction mixture was cooled to 5° C. The precipitate was filtered off, washed with ethanol and water and dried to give 273.2 g of 2-nitro-1-[(phenylmethyl)thio]-4-trifluoromethylbenzene as a bright yellow solid, m.p. 132°-136°.

reactant | 4-chloro-3-nitrobenzotrifluoride | 225.6 g | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | benzyl mercaptan | 136 g | C(C1=CC=CC=C1)S | C7H8S
reactant | KOH | 72.5 g | [OH-].[K+]
solvent | ethyl alcohol | 1.5 l | C(C)O | C2H6O
solvent | water | 120 ml | O | H2O
product | 2-nitro-1-[(phenylmethyl)thio]-4-trifluoromethylbenzene | 273.2 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)SCC1=CC=CC=C1 | C14H10F3NO2S
